US08791107B2
2-(7-fluoro-1H-indol-4-yl)-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 2 using 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x9, 90 mg, 0.228 mmol), 7-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (119 mg, 0.456 mmol) and PdCl2(dppf) (8.34 mg, 0.011 mmol) in dioxane (2.5 mL) and aqueous saturated NaHCO3 (0.5 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.22 (m, 3H), 3.24-3.36 (m, 2H), 3.39-3.75 (m, 3H), 3.88-4.06 (m, 2H), 4.06-4.16 (m, 1H), 4.62-4.77 (m, 2H), 7.05-7.21 (m, 2H), 7.45-7.53 (m, 1H), 7.55-7.62 (m, 1H), 7.62-7.72 (m, 3H), 7.90-7.97 (m, 2H), 11.85-12.09 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C25H24FN5O3S, 494.16. found 494.5.

reactant | 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.228 mmol, 90 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
reactant | 7-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.456 mmol, 119 mg | FC=1C=CC(=C2C=CNC12)B1OC(C(O1)(C)C)(C)C | C14H17BFNO2
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.5 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 0.011 mmol, 8.34 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(7-fluoro-1H-indol-4-yl)-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | FC=1C=CC(=C2C=CNC12)C1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C25H24FN5O3S
